.SubCkt GR721AW0BB103KW01 _net1 _net2
.param K01=9.6287e-09
.param M01=1.0000e+10
.param L02=1.3369e-10
.param M03=2.6946e-02
.param K04=8.9262e-07
.param M04=2.1965e+00
.param K05=2.1453e-06
.param M05=6.4144e-02
.param L06=8.4860e-11
.param M06=1.9624e-01
.param K07=5.8988e-08
.param L07=1.6179e-11
.param M07=6.2961e-02
.param K08=1.5368e-08
.param L08=2.2418e-11
.param M08=1.2510e-01
.param K09=6.1107e-12
.param L09=1.7268e-10
.param M09=3.4713e+01
.param K10=2.4117e-12
.param L10=1.6136e-10
.param M10=2.0318e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
L06 _net0506 _net0607 'L06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
L07 _net0607 _net0708 'L07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
L08 _net0708 _net0809 'L08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net2 'K10'
L10 _net0910 _net2 'L10'
R10 _net0910 _net2 'M10'
.ends 

.SubCkt GR721AW0BB153KW01 _net1 _net2
.param K01=1.3964e-08
.param M01=6.6667e+09
.param L02=1.3144e-10
.param M03=1.9720e-02
.param K04=1.4933e-06
.param M04=1.5392e+00
.param K05=2.8914e-06
.param M05=4.9764e-02
.param L06=8.9630e-11
.param M06=2.4415e-01
.param K07=7.1442e-08
.param L07=2.2189e-11
.param M07=8.9393e-02
.param K08=1.4401e-08
.param L08=4.7197e-11
.param M08=1.5946e-01
.param K09=6.3924e-12
.param L09=1.2566e-10
.param M09=2.5856e+01
.param K10=3.1161e-12
.param L10=1.0906e-10
.param M10=1.6202e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
L06 _net0506 _net0607 'L06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
L07 _net0607 _net0708 'L07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
L08 _net0708 _net0809 'L08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net2 'K10'
L10 _net0910 _net2 'L10'
R10 _net0910 _net2 'M10'
.ends 

.SubCkt GR721BW0BB223KW03 _net1 _net2
.param K01=2.1357e-08
.param M01=4.5455e+09
.param L02=1.7728e-10
.param M03=1.5024e-02
.param K04=2.8224e-06
.param M04=7.2643e-01
.param K05=4.8538e-06
.param M05=3.2449e-02
.param L06=1.2012e-10
.param M06=1.3958e-01
.param K07=1.3305e-07
.param L07=2.1746e-11
.param M07=8.2417e-02
.param K08=3.7816e-08
.param L08=3.3258e-11
.param M08=1.1290e-01
.param K09=7.6651e-12
.param L09=1.3528e-10
.param M09=2.1740e+01
.param K10=3.8356e-12
.param L10=1.0603e-10
.param M10=1.3476e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
L06 _net0506 _net0607 'L06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
L07 _net0607 _net0708 'L07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
L08 _net0708 _net0809 'L08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net2 'K10'
L10 _net0910 _net2 'L10'
R10 _net0910 _net2 'M10'
.ends 

.SubCkt GR721BW0BB273KW03 _net1 _net2
.param K01=2.6042e-08
.param M01=3.7037e+09
.param L02=2.1516e-10
.param M03=6.5773e-03
.param K04=3.9732e-06
.param M04=6.9611e-01
.param K05=6.1538e-06
.param M05=4.8159e-02
.param K06=8.8949e-07
.param M06=7.2892e-03
.param L07=3.5328e-11
.param M07=7.1733e-01
.param L08=1.6148e-10
.param M08=1.4313e-01
.param K09=9.4622e-08
.param L09=3.9649e-11
.param M09=1.0743e-01
.param K10=6.2516e-08
.param L10=2.8723e-11
.param M10=1.2054e-01
.param K11=9.4622e-12
.param L11=7.5549e-11
.param M11=1.6260e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
L07 _net0607 _net0708 'L07'
R07 _net0607 _net0708 'M07'
L08 _net0708 _net0809 'L08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net2 'K11'
L11 _net1011 _net2 'L11'
R11 _net1011 _net2 'M11'
.ends 
